US06242601B1
A solution of 0.1 g of (5-(1-hydroxy-1-methyl-ethyl))-pyridine-2-sulfonic acid amide, product of example 14 b), in CF3CO2H (2 ml) was refluxed for 20 h. The solvent was then removed in vacuo to give 5-isopropenyl-pyridine-2-sulfonic acid amide as a white solid which was essentially pure. EI mass spectrum, m/e 198 (M calculated for C8H10N2O2S: 198).

reactant | (5-(1-hydroxy-1-methyl-ethyl))-pyridine-2-sulfonic acid amide | 0.1 g | OC(C)(C)C=1C=CC(=NC1)S(=O)(=O)N | C8H12N2O3S
solvent | CF3CO2H | 2 ml | C(F)(F)(F)C(=O)O | C2HF3O2
product | 5-isopropenyl-pyridine-2-sulfonic acid amide | C(=C)(C)C=1C=CC(=NC1)S(=O)(=O)N | C8H10N2O2S
